Name:  ___            Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
TAVR 
 
Major Surgical or Invasive Procedure:
Transcatheter Aortic Valve Replacement ___
Pacemaker Placement ___

 
History of Present Illness:
___ y/o male with severe aortic stenosis (Mean pressure gradient 
49 mmHg, peak gradient 75 mmHg, and ___ 0.9 cm2), CAD s/p BMS 
stent to LAD in ___, HTN, HL, CKD who presents for TAVR.

The patient recently went on a trip to ___ with his wife in 
___ and was admitted to the hospital due to a CHF 
exacerbation. There, an echocardiogram obtained during that 
hospitalization showed an ___ 0.7 cms and a mean gradient 52 mm 
Hg. He was discharged when euvolemic and prescribed Lasix which 
he did not take. 28 days later the patient became extremely SOB, 
had significant peripheral edema and his weight was up 9lbs. He 
was placed on Lasix 40mg by his PCP and his symptoms improved 
and his Lasix was downtitrated to 20 mg daily.

When he returned home he was referred to Dr. ___ at ___ for 
surgical AVR, however, CT scan showed a calcified aorta and he 
was referred to ___ for TAVR evaluation.

Per patient and wife he had been having shortness of breath for 
several months, which improved after his hospitalization and 
diuresis as above. He is ___ Class III for symptoms.  He denies 
CP, palpitations, syncope, lightheadedness/dizziness. 

He denies recent illness, fever/chills, 
nausea/vomiting/diarrhea, blood in urine/stools, abdominal pain. 
Denies any prior history of stroke, TIA, deep venous thrombosis, 
pulmonary embolism.

 
Past Medical History:
1.  Hypercholesterolemia
2.  Hypertension, essential
3.  CAD s/p BMS stent to LAD in ___
 
Social History:
___
Family History:
Father: CVA x 2
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION:  
VS:  97.9| 144/54| 49| 16| 100% on RA 
Weight:  65.1 kg 
GEN:  Elderly man in NAD, AO x3
HEENT:  EOMI, PERRLA, MMM
NECK:  Neck supple, JVP mildly elevated
CV:  RRR, ___ systolic murmur w/ radiation into carotids. 
LUNGS:  CTAB, no wheezes or crackles
ABD:  Soft, BS+, non-distended, non-tender to palpation. 
EXT:  trace-1+ pitting edema of bilateral ankles. Lower 
extremities cool, b/l dorsal pulses palpable 
SKIN:  No skin lesions
NEURO:  CN ___ grossly intact, moves all extremities.

DISCHARGE PHYSICAL EXAMINATION:
VS: 98.3| 134-168/45-65| 63-77| 20| 96% on RA
I/O:  1170/650
Weight: 66.6 (67.4)  
GEN:  Elderly man in NAD, AO x3
HEENT: EOMI, MM dry 
CV: RRR, no murmurs rubs or gallops
Lungs: CTAB, decreased breath sounds diffusely 
EXT:  1+ pitting edema of bilateral ankles. 
SKIN:  No skin lesions
NEURO:  CN ___ grossly intact, moves all extremities.
 
Pertinent Results:
ADMISSION LABS: 
___ 05:05PM BLOOD WBC-4.6 RBC-3.51* Hgb-11.1* Hct-33.5* 
MCV-95 MCH-31.6 MCHC-33.1 RDW-13.2 RDWSD-44.9 Plt ___
___ 05:05PM BLOOD ___ PTT-32.7 ___
___ 05:05PM BLOOD Glucose-93 UreaN-77* Creat-2.8* Na-145 
K-3.8 Cl-105 HCO3-26 AnGap-18
___ 05:05PM BLOOD ALT-13 AST-12 CK(CPK)-55 AlkPhos-75 
TotBili-0.4

MICROBIOLOGY: 
___ Urine - negative
___ Staph aureus screen - negative 

IMAGING: 
CXR ___
Subtle opacity projecting over the left upper lobe which could 
represent 
pleural parenchymal scarring.  However, oblique views are 
recommended for 
further evaluation to exclude a pneumonia. 

ECHO ___
PreTAVR Deployment
 Study is quite limited given large hiatal hernia and poor echo 
views especially transgastric and deep transgastric.
 The left atrium is dilated. No spontaneous echo contrast is 
seen in the body of the left atrium. Regional left ventricular 
wall motion is normal. Overall left ventricular systolic 
function is normal (LVEF>55%). RV with normal free wall 
contractility. There are simple atheroma in the aortic root. 
There are simple atheroma in the ascending aorta. There are 
focal calcifications in the aortic arch. The number of aortic 
valve leaflets cannot be determined. The aortic valve leaflets 
are severely thickened/deformed. There is severe aortic valve 
stenosis (valve area <1.0cm2). No aortic regurgitation is seen. 
The mitral valve leaflets are severely thickened/deformed. 
Trivial mitral regurgitation is seen. There is a 
trivial/physiologic pericardial effusion. These findings were 
discussed with Drs. ___, and ___ at the time 
of exam.
PostTAVR Deployment
 There is a well-seated TAVR valve in place. Trace paravalvular 
regurgitation is noted. No new LV regional wall motion 
abnormalities are seen. Peak gradient is 9mmHg across the valve. 
The rest of exam is unchanged from prior. These findings were 
discussed with the procedural team at the time of exam in the 
operating room.  

ECHO ___
The left atrium is mildly dilated. Mild symmetric left 
ventricular hypertrophy with normal cavity size, and 
regional/global systolic function (biplane LVEF = 63 %). Doppler 
parameters are most consistent with Grade II (moderate) left 
ventricular diastolic dysfunction. Right ventricular chamber 
size and free wall motion are normal. There is abnormal septal 
motion/position consistent with right ventricular 
pressure/volume overload. The diameters of aorta at the sinus, 
ascending and arch levels are normal. An ___ aortic 
valve bioprosthesis is present. The transaortic gradient is 
normal for this prosthesis. A paravalvular aortic valve leak is 
probably present. The aortic valve VTI = 59 cm. Trace aortic 
regurgitation is seen. The mitral valve leaflets are mildly 
thickened. There is no mitral valve prolapse. Trivial mitral 
regurgitation is seen. There is moderate pulmonary artery 
systolic hypertension. There is a trivial/physiologic 
pericardial effusion. 

 IMPRESSION: A well seated aortic ___ valve is present with 
normal gradients and trace paravavluar aortic regurgitation. 
There appears to be varying PR interval - AV block cannot be 
exclude however echo is not a good modality to diagnose 
arrhythmia suggest obtaining an EKG to verify. Type II diastolic 
dysfunction with elevated LVEDP, moderate pulmonary hypertension 
and normal RV size and function.

 Compared with the prior study (images reviewed) of ___, 
there now is ___ aortic valve present. The rhythm appears 
to have changed.  

CXR ___
Opacity projecting over the left upper thorax is pleural plaque 
seen on prior chest CT. 

RENAL U/S ___
1.  Limited assessment of the renal vasculature.  No 
hydronephrosis or stones. 
2.  Innumerable bilateral renal cysts 

CXR ___
There has been placement of a new left-sided dual lead pacemaker 
with distal lead tips in right atrium and right ventricle.  
Valvular cage device is seen projecting over the heart.  There 
is mild prominence of the pulmonary interstitial markings 
without overt pulmonary edema.  There is a small left-sided 
pleural effusion.  There are no pneumothoraces. 

INTERVAL LABS: 
___ 06:00AM BLOOD Glucose-97 UreaN-74* Creat-3.6* Na-137 
K-4.0 Cl-98 HCO3-24 AnGap-19
___ 05:05PM BLOOD ___

DISCHARGE LABS: 
___ 06:40AM BLOOD WBC-5.3 RBC-2.84* Hgb-9.0* Hct-26.7* 
MCV-94 MCH-31.7 MCHC-33.7 RDW-13.0 RDWSD-44.5 Plt Ct-99*
___ 06:40AM BLOOD Glucose-93 UreaN-63* Creat-2.7* Na-141 
K-3.8 Cl-107 HCO3-25 AnGap-13
___ 06:40AM BLOOD Calcium-8.7 Phos-2.9 Mg-2.___ y/o male with severe aortic stenosis, CAD s/p BMS stent to 
LAD in ___, HTN, HL, CKD who presented for scheduled TAVR. TAVR 
completed successfully on ___. Course c/b ___ on CKID and 
development of high grade AV block, now s/p PPM 

CORONARIES: Stent in LAD. 30% stenosis in the proximal in stent 
in the LAD.  The RCA had a ___ proximal and mid stenosis. 
PUMP: 60% 
RHYTHM: Sinus 

ACUTE ISSUES
============
#) Severe AS: Pre-op with mean pressure gradient 49 mmHg, peak 
gradient 75 mmHg, and ___ 0.9 cm2. S/p transcatheter aortic 
valve replacement (TAVR) with ___ on ___, no complications. 
 Peak gradient of 9 mm Hg after procedure. Post TAVR echo with 
well seated valve with normal gradients and trace paravalvular 
aortic regurgitation, LVEF of 63%, varying PR interval. Placed 
on  AS 81, Plavix 75 mg ___. Post-op course c/b bradycardia to 
___, HD stable, found to have high grade AV block. EP was 
consulted and decision was made to place PPM, which occurred on 
___ without complications. 

#) High grade AV block: pt with new bradycardia to ___ on ___, 
found to have new conduction block consistent with high grade AV 
block. S/P PPM on ___. Treated with 3 day course of 
post-procedure Keflex ___ mg PO (last day ___. 

#) Acute on chronic diastolic heart failure: BNP of 20K on 
admission. EF Of 60% on TTE. Diuresed with IV Lasix 20 mg, 
increased to 40 mg. Discharged on home furosemide 20 mg ___ 
require further titration as outpatient. 

#) ___ on CKD: Unclear baseline, on admission with Cr of 2.8. 
Last Cr of 2.2 in ___. Reportedly 2.2 at baseline, per wife. 
___ be secondary to volume overload, unlikely contrast 
nephropathy given time course and Cr elevated at admission. 
Urine lytes suggestive of mixed picture. Renal ultrasound with 
innumerable b/l renal cysts. Renal was consulted, recommended 
holding diuresis with improvement of Cr. Diuresis held briefly 
with stabilization of Cr. Cr improved with re-initation of 
diuresis. Home lisinopril, bisoprolol-HCTZ, triamterene-HCTZ 
held in setting ___ and on discharge. Cr of  2.7 on 
discharge. Discharged on furosemide 20 mg ___

#) HTN: SBPs to 150s during admission. Started on isosorbide 
mononitrate ER 30 mg ___ for improved BP control. Home amlodipine 
increased to 10 mg ___. 

CHRONIC ISSUES
==============
#) CAD: s/p LAD stent in ___. Continued ASA and atorvastatin
#) GERD: continued omeprazole
#) BPH: continued home tamsulosin. 

TRANSITIONAL ISSUES
===================
-Please check CHEM 7 AND ACTIVELY TITRATE FUROSEMIDE IF NEEDED 
at appointment with Dr. ___ on ___.
-Renal U/S showed innumerable b/l renal cysts, which may be 
source for CKD
-Pt's Cr on DC was 2.7
-Pt's home HTN meds were changed:
---- Amlodipine was increased to 10 mg daily
---- Clopidogrel 75 daily for at least 3 months
---- He needs prophylactic cephalexin until ___ post PPM 
placement
---- Isosorbide mononitrate 30mg daily was started
---- Sevelamer Carbonate 800mg TID with meals
-Plan is for at least 3 months of Plavix 75mg daily, and 
continuation of ASA 81mg daily
-Pt was started on Keflex ___ q8h x3d s/p PPM placement for 
infxn prevention
-incidental finding: opacity on CXR projecting over the left 
upper lung persists is a calcified pleural plaque seen on CT 
chest from ___. 

# DRY WEIGHT: 66.6 kg 
# CODE: Full in setting of recent procedure and pacemaker 
placement
# CONTACT: ___ (Home/Wife), ___ (Son) 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Amlodipine 5 mg PO DAILY 
2. Atorvastatin 40 mg PO QPM 
3. bisoprolol-hydrochlorothiazide 2.5-6.25 mg oral DAILY 
4. Lisinopril 20 mg PO TID 
5. Omeprazole 20 mg PO DAILY 
6. Tamsulosin 0.4 mg PO BID 
7. Triamterene-HCTZ (37.5/25) 1 CAP PO DAILY 
8. Aspirin 81 mg PO DAILY 
9. Furosemide 20 mg PO DAILY 

 
Discharge Medications:
1. Amlodipine 10 mg PO DAILY 
RX *amlodipine 10 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0
2. Aspirin 81 mg PO DAILY 
3. Atorvastatin 40 mg PO QPM 
4. Omeprazole 20 mg PO DAILY 
5. Tamsulosin 0.4 mg PO BID 
6. Clopidogrel 75 mg PO DAILY 
RX *clopidogrel 75 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*2
7. Furosemide 20 mg PO DAILY 
RX *furosemide 20 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0
8. Cephalexin 500 mg PO Q8H Duration: 3 Days 
Please take through ___. 
RX *cephalexin 500 mg 1 tablet(s) by mouth q 8 hours Disp #*4 
Tablet Refills:*0
9. Isosorbide Mononitrate (Extended Release) 30 mg PO DAILY 
RX *isosorbide mononitrate 30 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY:
Severe Aortic Stenosis s/p TAVR
High Grade AV Block s/p PPM
Acute on Chronic Diastolic HF
___ on CKD
HTN

SECONDARY:
CAD
GERD
BPH

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ for a scheduled TAVR, where your 
aortic valve in your heart was replaced. Your procedure was 
complicated by your developing of heart block, where your heart 
wasn't conducting electricity properly. You had a pacemaker 
placed to ensure your heart pumped appropriately. Your kidney 
function was also found to have worsened over this admission.

It is extremely important that you take your 81mg Aspirin and 
75mg Plavix every day for the next 3 months, when they will 
discuss whether or not to continue. 

Please follow up with your PCP, ___, and renal 
doctors.

___ was a pleasure taking care of you!

Your ___ CCU Team
 
Followup Instructions:
___